US06482951B2
A solution of phthalic dicarboxaldehyde (248 mg; 1.80 mmol) and 2-Amino-3-cycloheptyl-propionic acid (318 mg; 1.72 mmol) in acetonitrile was heated to reflux for 18 h. The mixture was then allowed to cool to room temperature and the mixture stored in the refrigerator for 3 h. The solid was filtered off, rinsed with cold acetonitrile and air dried to give 424 mg (82%) of 3-Cycloheptyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid as a beige solid: EI-HRMS m/e calcd for C18H23NO3 (M+) 301.1678, found 301.1668.

reactant | 2-Amino-3-cycloheptyl-propionic acid | 1.72 mmol, 318 mg | NC(C(=O)O)CC1CCCCCC1 | C10H19NO2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-Cycloheptyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid | 424 mg, 82% | C1(CCCCCC1)CC(C(=O)O)N1C(C2=CC=CC=C2C1)=O | C18H23NO3
